US05037829
A mixture of 5.8 parts of 6-(chlorophenylmethyl)-2,4(1H,3H)-quinazolinedione, 10 parts of 1H-1,2,4-triazole and 158 parts of acetonitrile was stirred for 1 hour at room temperature and for 2 hours at reflux temperature. The solvent was evaporated and the residue was washed with water. The precipitate was filtered off and purified by column chromatography (silica gel; CH2Cl2 /CH3OH 90:10). The eluent of the first fraction was evaporated and the residue was washed with ethyl acetate and dried, yielding 2.2 parts (34.1%) of 6-[phenyl(1H-1,2,4-triazol-1-yl)methyl]-2,4(1H,3H)-quinazolinedione; mp. 280.9° C. (comp. 40).

reactant | 6-(chlorophenylmethyl)-2,4(1H,3H)-quinazolinedione | ClC(C=1C=C2C(NC(NC2=CC1)=O)=O)C1=CC=CC=C1 | C15H11ClN2O2
reactant | 1H-1,2,4-triazole | N1N=CN=C1 | C2H3N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-[phenyl(1H-1,2,4-triazol-1-yl)methyl]-2,4(1H,3H)-quinazolinedione | 34.1% | C1(=CC=CC=C1)C(C=1C=C2C(NC(NC2=CC1)=O)=O)N1N=CN=C1 | C17H13N5O2
